US08426411B2
An oven dried flask under nitrogen was charged with ((1,3-dioxolan-2-yl)methyl)triphenylphosphonium bromide (2.23 g, 5.19 mmol) and THF (14 mL). The flask was cooled to about 0° C. in an ice bath and potassium tert-butoxide (0.591 g, 5.00 mmol) was added. The mixture was stirred for about 30 min at about 0° C. and a solution of 4-(cyclohexylamino)-1-tosyl-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde (0.750 g, 1.89 mmol) in THF (4 mL) was added dropwise over about 10 min. The reaction was allowed to warm to ambient temperature and stirred for about 16 h. Water (10 mL) was added and the reaction mixture was extracted with Et2O (3×10 mL). The combined organic extracts were dried over anhydrous Na2SO4, filtered, and concd under reduced pressure. The crude oil was purified by silica gel chromatography eluting 0-50% EtOAc in DCM to give 5-(2-(1,3-dioxolan-2-yl)vinyl)-N-cyclohexyl-1-tosyl-1H-pyrrolo[2,3-b]pyridin-4-amine (0.590 g, 67%) as a mixture of E and Z isomers: LC/MS (Table 1, Method c) Rt=1.69 min, 1.73 min; MS m/z: 468 (M+H)+, 468 (M+H)+.

reactant | ((1,3-dioxolan-2-yl)methyl)triphenylphosphonium bromide | 5.19 mmol, 2.23 g | [Br-].O1C(OCC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 5.00 mmol, 0.591 g | CC(C)([O-])C.[K+]
reactant | 4-(cyclohexylamino)-1-tosyl-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 1.89 mmol, 0.750 g | C1(CCCCC1)NC1=C2C(=NC=C1C=O)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C21H23N3O3S
reactant | Water | 10 mL | O | H2O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 14 mL | C1CCOC1 | C4H8O
product | 5-(2-(1,3-dioxolan-2-yl)vinyl)-N-cyclohexyl-1-tosyl-1H-pyrrolo[2,3-b]pyridin-4-amine | 0.590 g, 67% | O1C(OCC1)C=CC1=C(C2=C(N=C1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)NC2CCCCC2 | C25H29N3O4S
